US06924384B2
(Making an “Other Compound” via Method A): C6F5MgBr+HSiCl3→C6F5(H)SiCl2
600.0 mL (0.300 mol) pentafluorophenyl magnesiumbromide (0.5 M sol. in Et2O) is added dropwise to a solution of 30.3 mL (0.300 mol, 40.635 g) HSiCl3 in Et2O at −70° C. Reaction mixture is allowed to warm slowly to room temperature by stirring overnight. Diethylether is evaporated and an excess of n-heptane (˜200 mL) is added to precipitate the magnesium salts. Solution is filtrated and evaporated to dryness. The residue, pentafluorophenyldichlorosilane, is purified by fractional distillation.

reactant | pentafluorophenyl magnesiumbromide | 0.300 mol, 0.5 M, 600.0 mL | FC1=C(C(=C(C(=C1[Mg]Br)F)F)F)F
reactant | HSiCl3 | 0.300 mol, 30.3 mL, 40.635 g | [SiH](Cl)(Cl)Cl | Cl3HSi
solvent | Et2O | CCOCC | C4H10O
product | C6F5MgBr HSiCl3 | C1(=C(F)C(F)=C(F)C(F)=C1F)[Mg]Br.[SiH](Cl)(Cl)Cl | InChI=1S/C6F5.BrH.Cl3HSi.Mg/c7-2-1-3(8)5(10)6(11)4(2)9;;1-4(2)3;/h;1H;4H;/q;;;+1/p-1
